US09126931B2
8-Amino-6,6-dimethyl-6H-benzo[b]naphtho[2,3-d]furan-11-one
To trifluoro-methanesulfonic acid 6,6-dimethyl-11-oxo-6,11-dihydro-benzo[b]naphtho[2,3-d]furan-8-yl ester (100 mg), benzhydrylideneamine (0.05 ml), cesium carbonate (110 mg), palladium acetate (2 mg) and BINAP (7 mg), THF (2 ml) was added. The mixture was stirred and heated at 65° C. overnight under nitrogen atmosphere, and the reaction mixture was diluted with ethyl acetate. The organic layer was washed with saturated aqueous solution of sodium bicarbonate and saturated brine, and then concentrated under reduced pressure. The resulting residues were purified by silica gel column (ethyl acetate/hexane) to obtain the title compound (16 mg, 23%).

reactant | trifluoro-methanesulfonic acid 6,6-dimethyl-11-oxo-6,11-dihydro-benzo[b]naphtho[2,3-d]furan-8-yl ester | 100 mg | CC1(C2=CC(=CC=C2C(C=2C3=C(OC21)C=CC=C3)=O)OS(=O)(=O)C(F)(F)F)C | C19H13F3O5S
reactant | benzhydrylideneamine | 0.05 ml | C(C1=CC=CC=C1)(C1=CC=CC=C1)=N | C13H11N
reactant | cesium carbonate | 110 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | BINAP | 7 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | palladium acetate | 2 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | 8-Amino-6,6-dimethyl-6H-benzo[b]naphtho[2,3-d]furan-11-one | 16 mg, 23% | NC=1C=C2C(C3=C(C4=C(O3)C=CC=C4)C(C2=CC1)=O)(C)C | C18H15NO2
